US08404677B2
(E)-Ethyl 4-(3,5-dimethoxyphenylamino)-6-(2-(dimethylamino)vinyl)-2-(methylthio)pyrimidine-5-carboxylate
To the solution of ethyl 4-(3,5-dimethoxyphenylamino)-6-methyl-2(methylthio)pyrimidine-5-carboxylate (2.7 g, 7.4 mmol) in 30 mL DMF was added N,N-dimethylformamide dimethylacetal (1.58 mL, 11.1 mmol). The reaction mixture was stirred at 130° C. for 2 hour. After monitoring the reaction by TLC was cooled to room temperature, then the mixture was diluted with DCM and water. After extracted three times by DCM from the aqueous layer, the combined organic layer was dried over MgSO4. The solution was condensed under reduced pressure yielding crude mixture (3.16 g). The mixture was used for the next step without further purification.

reactant | ethyl 4-(3,5-dimethoxyphenylamino)-6-methyl-2(methylthio)pyrimidine-5-carboxylate | 7.4 mmol, 2.7 g | COC=1C=C(C=C(C1)OC)NC1=NC(=NC(=C1C(=O)OCC)C)SC | C17H21N3O4S
reactant | N,N-dimethylformamide dimethylacetal | 11.1 mmol, 1.58 mL | COC(N(C)C)OC | C5H13NO2
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | (E)-Ethyl 4-(3,5-dimethoxyphenylamino)-6-(2-(dimethylamino)vinyl)-2-(methylthio)pyrimidine-5-carboxylate | 3.16 g | COC=1C=C(C=C(C1)OC)NC1=NC(=NC(=C1C(=O)OCC)\C=C\N(C)C)SC | C20H26N4O4S
